US04822805
To a solution of 2-(2,4-dimethoxyphenyl)-4-methyl-5-(3-pyridyl)imidazole (0.9 g) in ethanol (20 ml) was added conc. hydrochloric acid (0.6 ml), and the mixture was evaporated. The resulting syrup was triturated in ethanol to give 2-(2,4-dimethoxyphenyl)-4-methyl-5-(3-pyridyl)imidazole dihydrochloride (1.02 g).

reactant | 2-(2,4-dimethoxyphenyl)-4-methyl-5-(3-pyridyl)imidazole | 0.9 g | COC1=C(C=CC(=C1)OC)C=1NC(=C(N1)C)C=1C=NC=CC1 | C17H17N3O2
reactant | hydrochloric acid | 0.6 ml | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-(2,4-dimethoxyphenyl)-4-methyl-5-(3-pyridyl)imidazole dihydrochloride | 1.02 g | Cl.Cl.COC1=C(C=CC(=C1)OC)C=1NC(=C(N1)C)C=1C=NC=CC1 | InChI=1S/C17H17N3O2.2ClH/c1-11-16(12-5-4-8-18-10-12)20-17(19-11)14-7-6-13(21-2)9-15(14)22-3;;/h4-10H,1-3H3,(H,19,20);2*1H
